US04036977
1-(p-1-Adamantylthiophenyl)pyrrolidine
In a similar manner, usng 1,5-diiodopentane, 1-(p-1-adamantylthiophenyl)piperidine can be prepared.

reactant | 1,5-diiodopentane | ICCCCCI | C5H10I2
reactant | 1-(p-1-adamantylthiophenyl)piperidine | C12(CC3CC(CC(C1)C3)C2)SC2=CC=C(C=C2)N2CCCCC2 | C21H29NS
product | 1-(p-1-Adamantylthiophenyl)pyrrolidine | C12(CC3CC(CC(C1)C3)C2)SC2=CC=C(C=C2)N2CCCC2 | C20H27NS
